US04771052
3-Chloro-11-methyl-7,8,9,10-tetrahydro-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline
A mixture prepared from 17.5 g of 8-acetyl-3-chloro-11-methyl-7,8,9,10-tetrahydro-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline and 125 ml of concentrated hydrochloric acid was refluxed for one hour. The product precipitated as hydrochloride salt and it was recovered by filtration. The salt was suspended in water and the mixture was basified with 50% sodium hydroxide solution. The resultant solid was recovered by filtration and recrystallized from isopropanol to give 11 g of crystalline solid with a melting point of 209°-212° C.

reactant | 8-acetyl-3-chloro-11-methyl-7,8,9,10-tetrahydro-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline | 17.5 g | C(C)(=O)C1CNC(=C2C1NC=1C=NC3=CC(=CC=C3C12)Cl)C | C17H16ClN3O
reactant | hydrochloric acid | 125 ml | Cl | ClH
product | 3-Chloro-11-methyl-7,8,9,10-tetrahydro-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline | 11 g | ClC1=CC=C2C3=C(C=NC2=C1)NC1C3=C(NCC1)C | C15H14ClN3
